US07547701B2
2(S)-Amino-3-(2-chlorophenyl)propionic acid (1 g, commercially available) was dissolved in methanol (10 mL) and HCl gas was bubbled through the solution for 5 min. The reaction mixture was stirred at room temperature for 3 h and the solvent was evaporated using the rotavap to get 2(S)-amino-3-(2-chlorophenyl)propionic acid methyl ester hydrochloride (1.2 g).

reactant | 2(S)-Amino-3-(2-chlorophenyl)propionic acid | N[C@H](C(=O)O)CC1=C(C=CC=C1)Cl | C9H10ClNO2
reactant | methanol | 10 mL | CO | CH4O
product | 2(S)-amino-3-(2-chlorophenyl)propionic acid methyl ester hydrochloride | 1.2 g | Cl.COC([C@H](CC1=C(C=CC=C1)Cl)N)=O | InChI=1S/C10H12ClNO2.ClH/c1-14-10(13)9(12)6-7-4-2-3-5-8(7)11;/h2-5,9H,6,12H2,1H3;1H/t9-;/m0./s1
